US09216978B2
Diethyl 2-(difluoroacetyl)butanedioate
0.52 g (14.296 mmol) of sodium hydride (60% in mineral oil) was initially charged in THF (30 ml), and at 0° C. a solution of 2.00 g (11.437 mmol) of ethyl 4,4-difluoro-3-oxobutyrate in THF (20 ml) was then added dropwise. After warming to RT and a further 30 min at this temperature, 2.865 g (17.156 mmol) of ethyl bromoacetate in THF (15 ml) were added and the mixture was then heated at reflux overnight. After cooling, saturated aqueous ammonium chloride solution was added and the mixture was then extracted three times with ethyl acetate. The combined organic phases were dried with sodium sulphate, filtered and concentrated. After 5 min at high vacuum, the title compound obtained in this manner (3.00 g, about 50% pure) was used without further purification for the next step.

reactant | sodium hydride | 14.296 mmol, 0.52 g | [H-].[Na+]
reactant | ethyl 4,4-difluoro-3-oxobutyrate | 11.437 mmol, 2.00 g | FC(C(CC(=O)OCC)=O)F | C6H8F2O3
reactant | ethyl bromoacetate | 17.156 mmol, 2.865 g | BrCC(=O)OCC | C4H7BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | Diethyl 2-(difluoroacetyl)butanedioate | FC(C(=O)C(C(=O)OCC)CC(=O)OCC)F | C10H14F2O5
